US08471005B2
7-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-4-methyl-4H-benzo[1,4]oxazin-3-one
The titled compound was prepared in analogous fashion as Example 113 using 2-methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine and 7-amino-4-methyl-4H-benzo[1,4]oxazin-3-one to give 7-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-4-methyl-4H-benzo[1,4]oxazin-3-one as a pale yellow foam. LCMS (E/I+) 402 (M+H). 1H NMR (400 MHz, CDCl3) δ 8.69 (s, 1H), 7.75 (dd, 1H, J=1.5, 7.5 Hz), 7.64 (s, 1H), 7.41 (td, 1H, J=2, 8.2 Hz), 7.05 (m, 2H), 6.94 (d, 1H, J=4.6 Hz), 6.86 (m, 4H), 4.55 (s, 2H), 2.79 (s, 3H), 2.89 (s, 3H).

reactant | 2-methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | 7-amino-4-methyl-4H-benzo[1,4]oxazin-3-one | NC1=CC2=C(N(C(CO2)=O)C)C=C1 | C9H10N2O2
product | 7-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-4-methyl-4H-benzo[1,4]oxazin-3-one | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC1=C(N(C(CO1)=O)C)C=C2 | C22H19N5O3
